US04966904
α-[[(4-methoxybenzyl)amino]methyl]-3,4-dimethoxybenzyl alcohol (950 mg) was dissolved in 7.2 ml of trifluoroacetic acid, and after adding thereto 0.22 ml of conc. sulfuric acid under cie cooling, the reaction was allowed to react for 45 minutes. The reaction solution was concentrated, and subjected to azeotropic distillation with toluene 2 times. After adding chloroform, the mixture was basified by addition of 28% aqueous ammonia under ice cooling. By a separating procedure, the chloroform layer was collected, washed with water, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue obtained was subjected to silica gel column chromatography (chlroform-methanol-28% aqueous ammonia=15:1:0.1), giving 790 mg of 6-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline as oily matter.

reactant | α-[[(4-methoxybenzyl)amino]methyl]-3,4-dimethoxybenzyl alcohol | 950 mg | COC1=CC=C(CNCC(C2=CC(=C(C=C2)OC)OC)O)C=C1 | C18H23NO4
reactant | sulfuric acid | 0.22 ml | S(O)(O)(=O)=O | H2O4S
solvent | trifluoroacetic acid | 7.2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 790 mg | COC=1C=C2C(CNCC2=CC1)C1=CC(=C(C=C1)OC)OC | C18H21NO3
